US07262192B2
3-(Methylaminomethyl)-1-methylpiperidine
A solution of 3-(chloromethyl)-1-methylpiperidine (9.2 g, 50 mmol) (U.S. Pat. No. 6,184,338, example 5) and 33% methylamine in ethanol (60 mL) in ethanol (30 mL) was heated in a sealed vessel at 100° C. for 17 hours. The reaction mixture was concentrated in vacuo and diluted with water before being extracted into dichloromethane and dried over magnesium sulphate. The reaction mixture was filtered and concentrated in vacuo to yield the title product, 8.2 g.

reactant | 3-(chloromethyl)-1-methylpiperidine | 50 mmol, 9.2 g | ClCC1CN(CCC1)C | C7H14ClN
reactant | methylamine | CN | CH5N
solvent | ethanol | 60 mL | C(C)O | C2H6O
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(Methylaminomethyl)-1-methylpiperidine | CNCC1CN(CCC1)C | C8H18N2
